US09371316B2
A solution 4-iodopyridine (1 g, 4.88 mmol) in THF (15 mL) was cooled to −78° C. under nitrogen, 1.6 M n-BuLi in hexane (0.565 mL, 8.14 mmol) was slowly added at −78° C. The reaction mixture was stirred for 10 min and 1-(2-(4-fluorophenyl)thiazol-5-yl) ethanone (900 mg, 4.07 mmol) in THF (25 mL) was added. The resulting mixture was stirred at −78° C. for 2 h. The reaction mixture was quenched with saturated NH4Cl solution (160 mL), extracted with ethyl acetate (3×250 mL), the organic layer dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by flash chromatography (100-200μ; 70% ethyl acetate in hexane) to afford 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol as off-white solid (1.2 g, 35% yield) in 99.6% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.51 (d, 2H), 7.88-7.92 (m, 2H), 7.81 (s, 1H), 7.48 (d, 2H), 7.28 (t, 2H), 6.64 (s, 1H), 1.93 (s, 3H); LC-MS m/z calculated for [M+H]+301.07. found 301.1.

reactant | 4-iodopyridine | 4.88 mmol, 1 g | IC1=CC=NC=C1 | C5H4IN
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 8.14 mmol, 0.565 mL | CCCCCC | C6H14
reactant | 1-(2-(4-fluorophenyl)thiazol-5-yl) ethanone | 4.07 mmol, 900 mg | FC1=CC=C(C=C1)C=1SC(=CN1)C(C)=O | C11H8FNOS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol | 1.2 g, 35% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | C16H13FN2OS
